US07683067B2
3-{6-[2-(Diisopropylamino)ethoxy]pyrimidin-4-yl}-2-hydroxy-1H-indole-6-carbonitrile hydrochloride
The title compound was prepared as described for Example 120 using N-{2-[(6-chloropyrimidin-4-yl)oxy]ethyl}-N-isopropylpropan-2-amine (0.10 g, 0.39 mmol), 2-oxoindoline-6-carbonitrile (0.074 g, 0.47 mmol) and cesium carbonate (0.50 g, 1.54 mmol). Yield 0.026 g, 15%: 1H NMR (CD3OD, 400 MHz) δ 8.59 (s, 1H), 7.81 (d, J=8 Hz, 1H), 7.55 (d, J=1 Hz, 1H), 7.45 (dd, J=8, 1 Hz, 1H), 6.64 (s, 1H), 4.40 (t, J=6 Hz, 1H), 3.87 (m, 1H), 3.58 (t, J=6 Hz, 1H), 1.44 (m, 3H); MS (ESP) m/z 380 (M++1).

reactant | N-{2-[(6-chloropyrimidin-4-yl)oxy]ethyl}-N-isopropylpropan-2-amine | 0.39 mmol, 0.10 g | ClC1=CC(=NC=N1)OCCN(C(C)C)C(C)C | C12H20ClN3O
reactant | 2-oxoindoline-6-carbonitrile | 0.47 mmol, 0.074 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | cesium carbonate | 1.54 mmol, 0.50 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 3-{6-[2-(Diisopropylamino)ethoxy]pyrimidin-4-yl}-2-hydroxy-1H-indole-6-carbonitrile hydrochloride | Cl.C(C)(C)N(CCOC1=CC(=NC=N1)C1=C(NC2=CC(=CC=C12)C#N)O)C(C)C | InChI=1S/C21H25N5O2.ClH/c1-13(2)26(14(3)4)7-8-28-19-10-18(23-12-24-19)20-16-6-5-15(11-22)9-17(16)25-21(20)27;/h5-6,9-10,12-14,25,27H,7-8H2,1-4H3;1H
